US09382228B2
A solution of 1-methoxycyclopentanecarboxylic acid (0.9 g, 6.24 mmol) in EtOAc (30 mL) was treated with CDI (1.316 g, 8.12 mmol), stirred at RT for 0.5 h, treated with NH4OH (˜15M, 0.729 mL, ˜10.9 mmol) and stirred at RT overnight. The mixture was treated with water, extracted with EtOAc (3×) and the combined organics were washed with brine, dried over Na2SO4 and concentrated to dryness to afford 1-methoxycyclopentanecarboxamide (900 mg, 101%). 1H NMR (400 MHz, CDCl3): δ 6.45 (br s, 1H), 5.42 (br s, 1H), 3.24 (s, 3H), 2.07-2.04 (m, 2H), 1.90-1.87 (m, 2H), 1.75-1.73 (m, 4H).

reactant | 1-methoxycyclopentanecarboxylic acid | 6.24 mmol, 0.9 g | COC1(CCCC1)C(=O)O | C7H12O3
reactant | CDI | 8.12 mmol, 1.316 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | NH4OH | ˜10.9 mmol, ˜15M, 0.729 mL | [NH4+].[OH-]
reactant | water | O | H2O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 1-methoxycyclopentanecarboxamide | 900 mg, 101% | COC1(CCCC1)C(=O)N | C7H13NO2
